US04383945
A mixture of (6R,7R)-7-benzyloxycarbonylamino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one (748 mg) and 10% palladium charcoal (180 mg) in ethyl acetate (15 ml) was stirred under a hydrogen atmosphere for 1.5 hours at ambient temperature. The mixture was filtered and the filtrate was evaporated in vacuo to give (6R,7R)-7-amino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one (382 mg) as a crystalline solid.

reactant | (6R,7R)-7-benzyloxycarbonylamino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 748 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@H]2CCOC(N2C1=O)(C)C | C16H20N2O4
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium charcoal | 180 mg | [Pd] | Pd
product | (6R,7R)-7-amino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 382 mg | N[C@@H]1[C@H]2CCOC(N2C1=O)(C)C | C8H14N2O2
